US07511066B2
G. Methoxymethyl 3-(2-methyl-1,3-dioxolan-2-yl)phenyl Ether
A mixture of 3-(acetyl)phenyl methoxymethyl ether (3.6 g, 20 mmol), ethylene glycol (3.72 g, 60 mmol) and pyridinium tosylate (0.075 g, 0.3 mmol, 3 mol %) in benzene (200 mL) was azeotropically refluxed for 8 h. The reaction was concentrated and the resulting residue was diluted with ethyl ether (150 mL) and washed with saturated aqueous bicarbonate (2×50 mL) and brine (100 mL). The ethyl ether solution was dried (K2CO3) and concentrated. The residue was suspended in n-hexanes and the by-product was precipitated. The n-hexane solution was then separated and concentrated to obtain the desired product (2.69 g, 61%); TLC Rf: 0.5 (30% EtOAc/n-hexanes).

reactant | 3-(acetyl)phenyl methoxymethyl ether | 20 mmol, 3.6 g | COCOC1=CC(=CC=C1)C(C)=O | C10H12O3
reactant | ethylene glycol | 60 mmol, 3.72 g | C(CO)O | C2H6O2
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
catalyst | pyridinium tosylate | 0.3 mmol, 0.075 g | S(=O)(=O)([O-])C1=CC=C(C)C=C1.[NH+]1=CC=CC=C1
product | Methoxymethyl 3-(2-methyl-1,3-dioxolan-2-yl)phenyl Ether | 2.69 g, 61% | CC1(OCCO1)C=1C=C(C=CC1)OCOC | C12H16O4
